US04039543
A mixture of 10.6 g. of 3'-dimethylamino-5'-[1-hydroxy-2-(methylsulfonyl)-ethyl]-2'-methoxy-N-methylacetanilide, 1.8 g. of sodium methylate and 4.8 g. of β-anilinopropionitrile in 20 ml. of dimethylsulfoxide was stirred with the exclusion of moisture for 5 hours at 50° C. The mixture was poured into 250 ml. of water, the precipitated oil extracted with ethyl acetate, the ethyl acetate solution dried over sodium sulfate and evaporated. By purification of the residue over aluminum oxide with benzene and recrystallization from ethyl acetate/petroleum ether, there was obtained the 5'-(3-anilino-2-cyanoallyl)-3'-dimethylamino-2'-methoxy-N-methylacetanilide, having a melting point of 176°-178° C.

reactant | 3'-dimethylamino-5'-[1-hydroxy-2-(methylsulfonyl)-ethyl]-2'-methoxy-N-methylacetanilide | CN(C=1C(=C(N(C(C)=O)C)C=C(C1)C(CS(=O)(=O)C)O)OC)C | C15H24N2O5S
reactant | sodium methylate | C[O-].[Na+]
reactant | β-anilinopropionitrile | N(C1=CC=CC=C1)CCC#N | C9H10N2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 5'-(3-anilino-2-cyanoallyl)-3'-dimethylamino-2'-methoxy-N-methylacetanilide | N(C1=CC=CC=C1)C=C(CC=1C=C(C(=C(N(C(C)=O)C)C1)OC)N(C)C)C#N | C22H26N4O2
